US08022062B2
6-Acetoxy-9-bromo-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Under nitrogen atmosphere, mix 9-bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (6 g, 17.8 mmol), anhydrous pyridine (0.06 mL, 0.72 mmol), DMAP (222 mg, 1.8 mmol) and acetic anhydride (30 mL). Heat the mixture at reflux for 8 h and then stir at ambient temperature for another 8 h. Concentrate in vacuo, dilute the residue in EtOAc, wash with 1N aqueous HCl, and then with saturated aqueous NaHCO3. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain the desired intermediate (5.64 g, 84%) that was used without further purification. MS (ES+) m/z: 380 (M+H)+.

reactant | 9-bromo-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 17.8 mmol, 6 g | BrC1=CC=C(C2=C1CCN(CC2)C(C(F)(F)F)=O)O | C12H11BrF3NO2
reactant | pyridine | 0.72 mmol, 0.06 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 1.8 mmol, 222 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-Acetoxy-9-bromo-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 5.64 g, 84% | C(C)(=O)OC1=CC=C(C=2CCN(CCC21)C(C(F)(F)F)=O)Br | C14H13BrF3NO3
